US09278915B2
Intermediate 134: Methyl 3-(4-hydroxyphenyl)hexanoate
To a 500 mL parr hydrogenater flask with ethyl acetate (5 mL) and quinoline (0.117 g, 1.4 mmol), was added methyl 3-[4-(benzyloxy)phenyl]hex-4-ynoate (0.2 g, 65.0 mmol) and 10% Pd/C (0.015 g) under N2 atmosphere. The RM was hydrogenated for 2 h. The RM was diluted with ethyl acetate (10 mL), filtered the catalyst through celite and evaporated to dryness under reduced pressure. The crude was purified by flash column chromatography on silica gel (100/200 mesh), to give the product (0.11 g, yield: 76.38%).

reactant | quinoline | 1.4 mmol, 0.117 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | methyl 3-[4-(benzyloxy)phenyl]hex-4-ynoate | 65.0 mmol, 0.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(=O)OC)C#CC | C20H20O3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.015 g | [Pd] | Pd
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 3-(4-hydroxyphenyl)hexanoate | 0.11 g, yield: 76.38% | OC1=CC=C(C=C1)C(CC(=O)OC)CCC | C13H18O3
